US08957205B2
1-[(3-Thiazolidinylcarbonyl)amino]cyclohexanecarboxylic acid
A solution of 78 mg (0.6 mmol) of N,N-dimethylaminopyridine and 1 g (6.36 mmol) of 1-aminocyclohexanecarboxylic acid methyl ester in methylene chloride was added to a solution of 1.39 mg (6.36 mmol) of di-t-butyl dicarbonate in 10 ml of methylene chloride, and the mixture was stirred at room temperature for 30 minutes. Thereafter, a solution of 1.29 g (12.7 mmol) of triethylamine and 680 mg (7.6 mmol) of thiazolidine in methylene chloride was added thereto, and the mixture was stirred at room temperature overnight. After the reaction mixture was concentrated, the residue was dissolved in ethyl acetate, and the mixture was washed with water, a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution, and then saturated brine, followed by drying with anhydrous sodium sulfate. After the solvent was distilled off under reduced pressure, tetrahydrofuran and a 1N aqueous sodium hydroxide solution were added to the residue, and the mixture was heated under reflux for 3 hours. After ether was added to the reaction solution to wash it, the aqueous layer was neutralized by concentrated hydrochloric acid and extracted with ethyl acetate. After the obtained organic layer was washed with saturated brine, the layer was dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 1.1 g (66%) of the title compound.

reactant | 1-aminocyclohexanecarboxylic acid methyl ester | 6.36 mmol, 1 g | COC(=O)C1(CCCCC1)N | C8H15NO2
reactant | di-t-butyl dicarbonate | 6.36 mmol, 1.39 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 12.7 mmol, 1.29 g | C(C)N(CC)CC | C6H15N
reactant | thiazolidine | 7.6 mmol, 680 mg | S1CNCC1 | C3H7NS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-[(3-Thiazolidinylcarbonyl)amino]cyclohexanecarboxylic acid | 1.1 g, 66% | S1CN(CC1)C(=O)NC1(CCCCC1)C(=O)O | C11H18N2O3S
